US07700609B2
8-(3-Sulfamoyl-phenylamino)-thiazolo[4,5-h]quinazoline-2-carboxylic acid ethyl ester
A suspension of 8-(3-Sulfamoyl-phenylamino)-4,5-dihydro-thiazolo[4,5-h]quinazoline-2-carboxylic acid ethyl ester (609 mg, 1.41 mmol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (480 mg, 2.12 mmol) in anhydrous 1,4-dioxane (30 mL) was refluxed under nitrogen for 2 hours. The reaction mixture was cooled down to room temperature and the DDQ residues were filtered. The mother liquor was concentrated in vacuo and the resulting crude residue was triturated in a mixture of EtOAc, MeOH and DCM. The resulting solid was filtered to afford 523 mg (86% yield) of the title compound as a yellow solid. MS (ES+) 430, (ES−) 428. δH (d6 DMSO) 1.42 (3H, t), 4.51 (2H, q), 7.37 (2H, s), 7.52 (1H, d), 7.60 (1H, t), 8.09 (1H, d), 8.14 (2H, s), 8.70 (1H, s), 9.55 (1H, s), 10.59 (1H, s).

reactant | 8-(3-Sulfamoyl-phenylamino)-4,5-dihydro-thiazolo[4,5-h]quinazoline-2-carboxylic acid ethyl ester | 1.41 mmol, 609 mg | C(C)OC(=O)C=1SC2=C(CCC=3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)N1 | C18H17N5O4S2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 2.12 mmol, 480 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 8-(3-Sulfamoyl-phenylamino)-thiazolo[4,5-h]quinazoline-2-carboxylic acid ethyl ester | 523 mg, 86% yield | C(C)OC(=O)C=1SC2=C(C=CC=3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)N1 | C18H15N5O4S2
